US08471005B2
2-Methyl-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-propan-2-ol (1.60 g, 0.00573 mol) was dissolved in Methanol (40 mL) and the solution was carefully added to a Parr vessel containing 10% Palladium on Carbon (90.10, carbon black. Palladium, 0.750 g, 0.0562 mol) under nitrogen. The reaction was then placed on a Parr apparatus and was allowed to shake until uptake of hydrogen ceased (overnight). Catalyst was filtered and the filtrate was reduced to provide 1.20 grams of 1-[4-(3-Amino-phenyl)-piperazin-1-yl]-2-methyl-propan-2-ol without further purification as a light purple solid. (M+H)=250.06.

reactant | 2-Methyl-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-propan-2-ol | 0.00573 mol, 1.60 g | CC(CN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-])(C)O | C14H21N3O3
reactant | hydrogen | [H][H] | H2
solvent | Methanol | 40 mL | CO | CH4O
catalyst | Palladium on Carbon | 0.0562 mol, 0.750 g | [Pd] | Pd
product | 1-[4-(3-Amino-phenyl)-piperazin-1-yl]-2-methyl-propan-2-ol | 1.20 grams | NC=1C=C(C=CC1)N1CCN(CC1)CC(C)(O)C | C14H23N3O
